US05849764
Step 12.E 5-acetyl-3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5-dimethylphenyl)indole-1-carboxylic acid tert-butyl ester
To a solution of 3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5 -dimethylphenyl)-5-(methoxymethylcarbamoyl) indole-1-carboxylic acid tert-butyl ester (0.069 g in 3 mL dry tetrahydrofuran) at -10° C. was added 0.20 mL of a 1.5M solution of methyllithium in ether and the mixture stirred at low temperature. After 45 minutes, the reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acatate. The organic portion was washed with brine, dried over sodium sulfate and the concentrate purified by preparative TLC on silica gel (hexane:ethyl acetate, 2:3) to give the title compound (58 mg).

reactant | 3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5 -dimethylphenyl)-5-(methoxymethylcarbamoyl) indole-1-carboxylic acid tert-butyl ester | 3 mL, 0.069 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC(=CC=C12)C(NCOC)=O)CCN(CCCCC1=CC=NC=C1)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)C)C | C40H52N4O6
reactant | methyllithium | C[Li]
solvent | ether | CCOCC | C4H10O
product | 5-acetyl-3-{2-[tert-butoxycarbonyl-(4-pyridin-4-yl-butyl)amino]ethyl}-2-(3,5-dimethylphenyl)indole-1-carboxylic acid tert-butyl ester | 58 mg | C(C)(C)(C)OC(=O)N1C(=C(C2=CC(=CC=C12)C(C)=O)CCN(CCCCC1=CC=NC=C1)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)C)C | C39H49N3O5
